US06008213
a) 4-(2-Tetrahydropyranyloxy)-1-tributylstannyl-1-butyne
A solution of n-butyllithium in hexanes (1.6 M, 18.8 mL, 30 mmole) was added in a stream over 2 min to a solution of 2-(3-butynyloxy)tetrahydro-2H-pyran (4.7 mL, 30 mmole) in dry THF (60 mL) at 0° C. under argon. After 0.5 hr, tributyltin chloride (8.1 mL, 30 mmole) was added all at once, and the reaction was warmed to RT. After 3 hr, the reaction was diluted with hexanes (300 mL) and washed sequentially with H2O (2×60 mL), 10% KF (2×30 mL), and saturated brine (60 mL). Drying (Na2SO4), concentration, and silica gel chromatography (3% EtOAc/hexanes) gave the title compound (3.58 g, 27%) as a nearly colorless oil: TLC (5% EtOAc/hexanes) Rf 0.37; 1H NMR (400 MHz, CDCl3) δ 4.66 (narrow t, 1 H), 3.75-3.96 (m, 2 H), 3.49-3.62 (m, 2 H), 2.56 (app t, 2 H), 1.76-1.91 (m, 1 H), 1.65-1.78 (m, 1H), 1.42-1.65 (m, 10 H), 1.22-1.41 (m, 6 H), 0.82-1.08 (m, 15 H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(3-butynyloxy)tetrahydro-2H-pyran | 30 mmole, 4.7 mL | C(CC#C)OC1OCCCC1 | C9H14O2
reactant | tributyltin chloride | 30 mmole, 8.1 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(2-Tetrahydropyranyloxy)-1-tributylstannyl-1-butyne | 3.58 g, 27% | O1C(CCCC1)OCCC#C[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H13O2.3C4H9.Sn/c1-2-3-7-10-9-6-4-5-8-11-9;3*1-3-4-2;/h9H,3-8H2;3*1,3-4H2,2H3;
